datasets/10k__Tet_Int.csv
SMILES Labelled
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(C8=CC=CC=C8)[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1[H])([O-:10])[Cl:21])[H])C1=CC=CC=C1>>[H]C1C(C(O[C:20](=[O:10])N1[H])[H])C1=CC=CC=C1.[Cl-:21] 10=20;20,21=21"
"CCC1C(C(O[C:20](=[O:10])N1C)CC)CC.[O-:21]C1=CC=CC=C1>>CCC1C(C(O[C:20](N1C)([O-:10])[O:21]C1=CC=CC=C1)CC)CC 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O][H])[S]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O][H])[S]CC 21=20;20,10=10"
"[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(CC)[O]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(C7=CC=CC=C7)C(CC)[O]1 10=20;20,21=21"
"[H]N([C:20]1(OC(C([O:21]1)C)C)[O-:10])C>>[H]N([C:20](=[O:10])OC(C([O-:21])C)C)C 10=20;20,21=21"
"CCCCCCN([C:20](=[O:10])OC)C1=CC=CC=C1.[O-:21]C>>CCCCCCN([C:20]([O-:10])(OC)[O:21]C)C1=CC=CC=C1 21=20;20,10=10"
"CCN([C:20]1(OC(C(C([O:21]1)CCCCCC)C)CC)[O-:10])C1=CC=CC=C1>>CCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)C)CC)C1=CC=CC=C1 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([O:21][H])[O][CH]([H])C(C)[CH](C)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH]([H])[CH](C)C(C)[S]2.C[O:10][H] 21=20;20,10=10"
"[O:10]([K])C(C)C(C)C(O)C([H])[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C([H])C(O)C(C)C(C)[O+:10]1([K]) 10=20;20,21=21"
"C[O+:10]([H])[C:20]([O:21][H])([O]C8=CC=CC=C8)[O][H].[Cl-]>>[Cl-].C[O:10][H].[H][O+:21]=[C:20]([O]C8=CC=CC=C8)[O][H] 21=20;20,10=10"
"CCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]C)C1=CC=CC=C1)CC>>CCC1C(C(O[C:20](=[O:10])N1CCCCCC)C1=CC=CC=C1)CC.[O-:21]C 10=20;20,21=21"
"[H][O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S][H])[S]CC.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S][H])[S]CC 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H])[H].[O-:21]CCCCCC>>C1=CC=CC=C1C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CCCCCC)[H])[H] 21=20;20,10=10"
"[H][NH:10]C(CC)C(C)[NH][C:20]([NH][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)[NH]1)[C:20]1([NH:21]C)[NH][H] 10=20;20,21=21"
"CC1C(C(O[C:20](N1C)([O-:10])[O:21]CC)C1=CC=CC=C1)CC>>CC1C(C(O[C:20](=[O:10])N1C)C1=CC=CC=C1)CC.[O-:21]CC 10=20;20,21=21"
"[H]C1C(O[C:20](N1CC)([O-:10])[O:21]C1=CC=CC=C1)CC>>[H]C1C(O[C:20](=[O:10])N1CC)CC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(CC)[NH]1)[C:20]1([NH:21][H])[NH][H].[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(CC)[NH][C:20]([NH][H])=[NH+:21][H] 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH]([H])C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C([H])[O]2.[H][O:10][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C([H])[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21]C)[O][CH](C7=CC=CC=C7)C(C)[CH]([H])[O]1 10=20;20,21=21"
"[H][NH+:10](C([H])C([H])C(C)[NH]1)[C:20]1([NH:21][H])[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])C(C)[NH][C:20]([NH]CC)=[NH+:21][H] 21=20;20,10=10"
"[H][S:10]C(C9=CC=CC=C9)C([H])C([H])[S][C:20]([O][H])=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C([H])C([H])[S]1)[C:20]1([O:21][H])[O][H] 10=20;20,21=21"
"CC[NH:10][H].C[NH+:21]=[C:20]([O]CC)[O][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]([NH:21]C)([O]CC)[O][H] 10=20;20,21=21"
"[O:10]([K])C(C)C(O)C([C:20](OC)=[O:21])[H]>>[O-:21][C:20]1(OC)[O+:10]([K])C(C)C(O)C1[H] 10=20;20,21=21"
"[OH:21][C:20]1(C)C(C)C(C)=C([H])C([H])[OH+:10]1>>[OH:10]C([H])/C([H])=C(C)\C(C)[C:20](C)=[OH+:21] 21=20;20,10=10"
"[H][S+:10]([H])[C:20]1([O:21][H])[O]C(CC)C(CC)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O]C(CC)C(CC)[S]2.[H][S:10][H] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C([H])[S][C:20]([S][H])=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])[S]1)[C:20]1([O:21][H])[S][H] 10=20;20,21=21"
"[H]C1C(O[C:20](=[O:10])N1C1=CC=CC=C1)C1=CC=CC=C1.[O-:21]C1=CC=CC=C1>>[H]C1C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C1=CC=CC=C1)C1=CC=CC=C1 21=20;20,10=10"
"CCN([C:20](=[O:10])OC(C(C([O-:21])[H])[H])[H])C>>CCN([C:20]1(OC(C(C([O:21]1)[H])[H])[H])[O-:10])C 21=20;20,10=10"
"C[O+:21]=[C:20]2[S][CH](CC)[CH](C)C(C)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21]C)[S][CH](CC)C(C)[CH](C)[O]1 10=20;20,21=21"
"[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(C7=CC=CC=C7)C(C)[O]1 10=20;20,21=21"
"[H][O:10][H].C[NH+:21]=[C:20]([NH]C)[O]C.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([NH:21]C)([NH]C)[O]C 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C(C)[O]1)[C:20]1([NH:21]CC)[NH]C.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C(C)[O][C:20]([NH]C)=[NH+:21]CC 21=20;20,10=10"
"C(C([O-:21])CC)(C(O[C:20](=[O:10])OC)CC)C1=CC=CC=C1>>C1(C(O[C:20]([O-:10])([O:21]C1CC)OC)CC)C1=CC=CC=C1 21=20;20,10=10"
